US09427475B2
Step B: 3-amino-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-alanine hydrochloride
To a stirred solution of 3-[(tert-butoxycarbonyl)amino]-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-D-alanine (1.0 g, 2.35 mmol) in CH2Cl2 (11.72 mL) was added HCl (4.0 M in dioxane, 11.72 mL, 46.9 mmol). After stirring for 16 hours, the reaction mixture was concentrated to give the title product, which was used without further purification. LC-MS Method A: m/e=327.19 [M+1]; Rt=1.73 min.

reactant | 3-[(tert-butoxycarbonyl)amino]-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-D-alanine | 2.35 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC[C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C23H26N2O6
reactant | HCl | 46.9 mmol, 4.0 M, 11.72 mL | Cl | ClH
solvent | CH2Cl2 | 11.72 mL | C(Cl)Cl | CH2Cl2
product | 3-amino-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-alanine hydrochloride | Cl.NC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | InChI=1S/C18H18N2O4.ClH/c19-9-16(17(21)22)20-18(23)24-10-15-13-7-3-1-5-11(13)12-6-2-4-8-14(12)15;/h1-8,15-16H,9-10,19H2,(H,20,23)(H,21,22);1H/t16-;/m0./s1
